US07842688B2
b) tert-Butyl 3-{2-[2-(2-aminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 2.85 g of tert-butyl 3-{2-[2-(2-azidoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 12.5 ml of tetrahydrofuran and 2.5 ml of water is admixed at room temperature with a solution of 1.2 ml of 25% conc. ammonia in 11.2 ml of methanol. After 1.7 g of triphenylphosphine have been added, the reaction mixture is stirred at room temperature over 16 hours. The mixture is diluted with ethyl acetate and washed with semisaturated aqueous sodium hydrogencarbonate solution (2×), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.26 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=5.17.

reactant | tert-butyl 3-{2-[2-(2-azidoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 2.85 g | N(=[N+]=[N-])CCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C37H48N4O7
reactant | ammonia | 1.2 ml | N | H3N
reactant | triphenylphosphine | 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
solvent | methanol | 11.2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-{2-[2-(2-aminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C37H50N2O7
